US08471005B2
Into a 1-Neck round-bottom flask, 2-Methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine (1.05 g, 3.37 mmol), Tetrahydrofuran (50 mL) and Methanol (25 mL) were added and stirred at room temperature. N-Bromosuccinimide (0.630 g, 3.54 mmol) in THF (20 mL) was added to the reaction mixture . The reaction was stirred at room temperature for 2 hours. LCMS suggested no SM. The solvent was removed under vacuum. The reaction was partitioned with water and Et2O. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant (5 to 20% EtOAc). The collected fractions afforded 7-Bromo-2-methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine as an oil (1.10 g, 83%).

reactant | 2-Methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine | 3.37 mmol, 1.05 g | CSC1=NN2C(C=N1)=C(C=C2)OCOCC[Si](C)(C)C | C13H21N3O2SSi
reactant | Methanol | 25 mL | CO | CH4O
reactant | N-Bromosuccinimide | 3.54 mmol, 0.630 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 7-Bromo-2-methylsulfanyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazine | 1.10 g, 83% | BrC1=CC(=C2C=NC(=NN21)SC)OCOCC[Si](C)(C)C | C13H20BrN3O2SSi
